US09388161B2
A 100-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen, and charged with 1-[(2S)-6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (500 mg, 1.18 mmol), iron powder (331 mg, 5.91 mmol), ammonium chloride (128 mg, 2.37 mmol), tetrahydrofuran (9 mL), ethanol (3 mL), and water (9 mL). The resulting mixture stirred for 12 h at 80° C. and was then filtered. The filtrate was concentrated, and the residue was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 1-[(2S)-5-(4-amino-2-fluorophenoxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (370 mg, 80%) as a light brown solid. MS (ESI, pos. ion) m/z 393, 395 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-(2-fluoro-4-nitrophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 1.18 mmol, 500 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H16BrFN2O4
reactant | ammonium chloride | 2.37 mmol, 128 mg | [Cl-].[NH4+]
reactant | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
reactant | ethanol | 3 mL | C(C)O | C2H6O
catalyst | iron | 5.91 mmol, 331 mg | [Fe] | Fe
solvent | water | 9 mL | O | H2O
product | 1-[(2S)-5-(4-amino-2-fluorophenoxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 370 mg, 80% | NC1=CC(=C(OC2=C3CC[C@@H](N(C3=CC=C2Br)C(C)=O)C)C=C1)F | C18H18BrFN2O2
